US07087618B2
To a solution of 2-(6-chloro-2-pyridinyl)-1-(methoxyphenyl)ethanone oxime (38.7 g, 140 mmol) in 1,2-dimethoxyethane (156 mL) at 0° C. was added trifluoroacetic anhydride (20 mL, 140 mmol), keeping the temperature below 10° C. during the addition. After the addition was complete, the reaction was warmed to 15° C. The solution was then cooled to 4° C. and a solution of triethylamine (39 mL, 280 mmol) in 1,2-dimethoxyethane (15 mL) was added over a period of 0.5 hours. The mixture was allowed to warm to room temperature and was stirred at room temperature for 1.5 hours. To this mixture was added iron(II) chloride (0.18 g, 1.4 mmol) and the reaction was heated at 75° C. for 15 hours. The reaction mixture was poured into water (300 mL). The resulting suspension was extracted with ethyl acetate. The organic phase was dried (magnesium sulfate), filtered and concentrated to a solid. This solid was recrystallized from methanol to give 7-chloro-2-(4-methoxyphenyl)pyrazolo[1,5-α]pyridine (18.7 g, 52%) as pale yellow needles. 1H NMR (CDCl3): δ 7.91 (d, 2H), 7.43 (d, 1H), 7.01 (t,1H), 6.95 (d, 2H). 6.81 (d,1 1H), 6.80 (s, 1H), 3.83 (s, 3 H); MS m/z 259 (M+1).

reactant | 2-(6-chloro-2-pyridinyl)-1-(methoxyphenyl)ethanone oxime | 140 mmol, 38.7 g | ClC1=CC=CC(=N1)CC(=NO)C1=C(C=CC=C1)OC | C14H13ClN2O2
reactant | trifluoroacetic anhydride | 140 mmol, 20 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | triethylamine | 280 mmol, 39 mL | C(C)N(CC)CC | C6H15N
reactant | water | 300 mL | O | H2O
solvent | 1,2-dimethoxyethane | 156 mL | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 15 mL | COCCOC | C4H10O2
catalyst | iron(II) chloride | 1.4 mmol, 0.18 g | [Fe](Cl)Cl
product | 7-chloro-2-(4-methoxyphenyl)pyrazolo[1,5-α]pyridine | 18.7 g, 52% | ClC1=CC=CC=2N1N=C(C2)C2=CC=C(C=C2)OC | C14H11ClN2O
